US06660753B2
In a similar fashion, 5-methoxynicotinoyl chloride was prepared from 5-methoxynicotinic acid hydrochloride (112.7 mg, 0.59 mmoles). Treatment of the acid chloride with pyrid-2-ylamidoxime (80.8 mg, 0.59 mmol) and triethylamine (0.3 mL) in dichloromethane (2 mL), followed by heating in dimethylformamide (1 mL) at 120° C. for 2.5 hours afforded 25 mg (17%) of 3-(2-pyridyl)-5-(5-methoxy-pyrid-3-yl)-1,2,4-oxadiazole.

reactant | 5-methoxynicotinoyl chloride | COC=1C=NC=C(C(=O)Cl)C1 | C7H6ClNO2
reactant | 5-methoxynicotinic acid hydrochloride | 0.59 mmoles, 112.7 mg | Cl.COC=1C=NC=C(C(=O)O)C1
reactant | triethylamine | 0.3 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 3-(2-pyridyl)-5-(5-methoxy-pyrid-3-yl)-1,2,4-oxadiazole | 25 mg, 17% | N1=C(C=CC=C1)C1=NOC(=N1)C=1C=NC=C(C1)OC | C13H10N4O2
